US08541605B2
Synthesis of hexadecanoic acid (2-oxo-4-pentadec-1-enyl-[1,3]dioxan-5-yl)-amide (1)
N-palmitoylsphingosine (C16-ceramide, 1.61 g, 3 mmol) was dissolved in dry THF (100 ml) with heating. The clear solution was brought to room temperature and N,N′-disuccinimidyl carbonate (1.92 g, 7.5 mmol) was added. Dimethylaminopyridine (DMAP 0.81 g, 7.5 mmol) was added with stirring and the reaction further stirred for 16 hours. The solvent was removed under reduced pressure and the residue was re-crystallized from n-heptane yielding 1.3 g (68%) of disuccinimidylceramidyl carbonate as white powder m.p. 73-76° C.

reactant | N-palmitoylsphingosine | 3 mmol, 1.61 g | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CO)[C@H](O)\C=C\CCCCCCCCCCCCC | C34H67NO3
reactant | N,N′-disuccinimidyl carbonate | 7.5 mmol, 1.92 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | Dimethylaminopyridine | 7.5 mmol, 0.81 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | hexadecanoic acid (2-oxo-4-pentadec-1-enyl-[1,3]dioxan-5-yl)-amide | O=C1OCC(C(O1)C=CCCCCCCCCCCCCC)NC(CCCCCCCCCCCCCCC)=O | C35H65NO4
